* E:\Desktop\LTspice\test_space\voltage_boost.asc
V1 v_in 0 5
L1 v_in N001 0.0069
M1 N001 N002 0 0 irfz44n
C1 v_out 0 30µ
R2 v_out 0 1000
D1 N001 v_out 1N914
XU1 0 N004 N005 v_in N006 N004 N003 v_in NE555
C2 N004 0 0.05µ
R1 N002 N005 1K
D2 N003 N007 1N914
D3 N008 N003 1N914
R3 N004 N007 2.2k
R4 N008 N004 69
C3 N006 0 10n
R5 v_in N003 2.8k
.model D D
.lib C:\Users\joyvi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joyvi\AppData\Local\LTspice\lib\cmp\standard.mos
.SUBCKT irfz44n 1 2 3
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.56214 LAMBDA=0 KP=39.3974
+CGSO=1.25255e-05 CGDO=2.2826e-07
RS 8 3 0.0133305
D1 3 1 MD
.MODEL MD D IS=9.64635e-13 RS=0.00967689 N=1.01377 BV=55
+IBV=0.00025 EG=1.08658 XTI=2.9994 TT=1e-07
+CJO=1.39353e-09 VJ=0.5 M=0.42532 FC=0.5
RDS 3 1 2.2e+06
RD 9 1 0.0001
RG 2 7 2.20235
D2 4 5 MD1
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.52875e-09 VJ=0.5 M=0.584414 FC=1e-08
D3 0 5 MD2
.MODEL MD2 D IS=1e-10 N=0.408752 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.06741e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
.MODEL MD3 D IS=1e-10 N=0.408752
.ENDS
.tran 0.1
.lib NE555.sub
.backanno
.end

